US04282226
5,6-Dihydro-5-thioxopyrazolo[1,5-c]quinazoline-2-carboxylic acid
A mixture of 600 mg (0.0025 mole) of 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid hydrochloride, 1.98 ml of carbon disulfide, 3.2 ml of pyridine and 0.16 ml of water are refluxed under N2 for 40 hours. The reaction mixture is stripped to dryness and the solid obtained is taken up in 175 ml methanol and filtered while hot. The clear light-yellow filtrate is concentrated down to a volume of 80 ml and cooled. The cotton-like precipitates are filtered and dried in vacuo over a 72 hour period at 80°. Yield: 394.8 mg, m.p. 272°-273°, 64.4% recryst. yield.

reactant | 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid hydrochloride | 0.0025 mole, 600 mg | Cl.NC1=C(C=CC=C1)C1=CC(=NN1)C(=O)O
reactant | carbon disulfide | 1.98 ml | C(=S)=S | CS2
reactant | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 0.16 ml | O | H2O
solvent | methanol | 175 ml | CO | CH4O
product | 5,6-Dihydro-5-thioxopyrazolo[1,5-c]quinazoline-2-carboxylic acid | S=C1NC=2C=CC=CC2C=2N1N=C(C2)C(=O)O | C11H7N3O2S
